US06005116
3-(2-Acetylaminoethoxy)-5-phenylisoxazole (Compound list No.: 1347)
3-(2-Aminoethoxy)-5-phenylisoxazole hydrochloride (240 mg) was suspended in anhydrous tetrahydrofuran (5 ml), and the suspension was cooled to 5° C. Acetyl chloride (94 mg) and triethylamine (243 mg) were added thereto, and the resulting mixture was stirred at the same temperature for 30 minutes. At the end of this time, the reaction mixture was added to ice-cold water (40 ml) and extracted with ethyl acetate (40 ml×2). Then, the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The crystals thus obtained were recrystallized from ethyl acetate to obtain the title compound (225 mg, 91%) as colorless crystals.

reactant | 3-(2-Aminoethoxy)-5-phenylisoxazole hydrochloride | 240 mg | Cl.NCCOC1=NOC(=C1)C1=CC=CC=C1
reactant | Acetyl chloride | 94 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 243 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(2-Acetylaminoethoxy)-5-phenylisoxazole | 225 mg, 91% | C(C)(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C13H14N2O3
